Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-3.80856201269
[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.86568175145
[H:6].[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[H:10]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-4.916477690480001
[O:1][C:2]([O:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:3],0.825571520001
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.73998067974
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:3],5.35191497641
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1],4.204267476559997
[H:13].[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-2.93589529083
[C:1]#[C:2][C:3][O:4][C:5](=[O:6])[H:7]>>[C:1].[C:2]#[C:3][O:4][C:5](=[O:6])[H:7],6.45275917566
[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1][C:2],3.01468464499
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])#[C:5][C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2],6.88543790035
[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.4014286779000003
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.02685486675
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.847048384180001
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.49400397566
[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]([O:3])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],4.858539799690001
[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],4.67514938374
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[C:8]2[O:9][C@@:10]12[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8])[C:10](=[O:9])[H:11],-0.57488582598
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9],1.69043433414
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6][C@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15]>>[H:1][C:7](=[C:6]([C:3](/[C:2]=[C:13](/[C:9]([H:10])([H:11])[H:12])[H:14])([H:4])[H:5])[H:15])[H:8],-1.38405378526
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[O:11])[H:12]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:10](=[O:11])[H:12],4.06549814558
[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.72644594532
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],0.4887957384399999
[C:2](=[C:3][O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C:2]([C:3][O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.89717963462
[O:1]=[C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],7.52917930168
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.22834645368
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8]>>[C:2]([H:3])#[C:7][H:8].[O:1][C:5](=[O:4])[H:6],1.40267292843
